US07981903B2
A mixture of 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (25 g, 73.1 mmol), 2-aminobenzoic acid (10.02 g, 73.1 mmol) and DIPEA (63.8 mL, 365 mmol) in iPrOH (300 mL) was heated at 85° C. bath for 17 h. The resulting mixture was allowed to cool to rt and was concentrated to about half volume. EtOAc (400 mL) was added, followed by a 1N aqueous HCl solution (400 mL). The resulting slurry was filtered, the solids were washed with EtOAc and triturated using Et2O to obtain 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzoic acid as a yellow solid (28.44 g 88%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3H), 7.11-7.23 (m, 1H), 7.47 (d. J=8.61 Hz, 2H), 7.56-7.67 (m, 1H), 7.76 (d, J=3.85 Hz, 1H), 7.95 (dd, J=7.69 Hz, 1.46 Hz, 1H), 7.97-8.02 (m, 2H), 8.29-8.36 (m, 1H), 11.36 (s, 1H); ESIMS (M+H)+=443.06.

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 73.1 mmol, 25 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-aminobenzoic acid | 73.1 mmol, 10.02 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | DIPEA | 365 mmol, 63.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | iPrOH | 300 mL | CC(C)O | C3H8O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzoic acid | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)O)C=CC=C2 | C20H15ClN4O4S
